US05641430
Preparation of trans-4-(trans-4-(3,4,5-trifluorophenyloxymethyl)cyclohexyl)-1-(4-fluoropentyl)-1- silacyclohexane
The general procedure of Example 39 was repeated using 3,4,5-trifluorophenol and 4-(trans-4-bromomethylcyclohexyl)-I-phenyl-1-(4-fluoropentyl)-1-silacyclohexane thereby obtaining the intended product.

reactant | 3,4,5-trifluorophenol | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | 4-(trans-4-bromomethylcyclohexyl)-I-phenyl-1-(4-fluoropentyl)-1-silacyclohexane | BrC[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(CCCC(C)F)C1=CC=CC=C1 | C23H36BrFSi
product | trans-4-(trans-4-(3,4,5-trifluorophenyloxymethyl)cyclohexyl)-1-(4-fluoropentyl)-1- silacyclohexane | FC=1C=C(C=C(C1F)F)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCC(C)F | C23H34F4OSi
